US07141637B2
a) 3-methyl-1-(5-methyl-4-phenyl-(2-thienyl))butan-1-one
A solution of 2-methyl-3-phenylthiophene (102.8 g, 0.590 mol) and 3-methylbutanoyl chloride (72.3 g, 0.600 mol) in 60 mL of dichloromethane was added dropwise to a 1 M solution of SnCl4 in dichloromethane (640 mL, 0.640 mol) at 0° C. The solution was stirred for 6 h at room temperature then poured slowly into water (500 mL). The organic fraction was separated, washed with a saturated aqueous solution of NaHCO3, brine solution, and dried (MgSO4). Solvents were removed on a rotoevaporator and the product was distilled (145° C., ˜0.03 torr). Yield=132.9 g. 1H-NMR δ (CDCl3): 7.61 (s, 1H), 7.3–7.5 (m, 5H), 2.72 (d, 2H), 2.52 (s, 3H), 2.3 (m, 1H), 1.0 (d, 6H). EIMS: m/z (%) 258 (M+, 38), 243 (25), 216 (69), 201 (100), 174 (11), 129 (25), 115 (11).

reactant | 2-methyl-3-phenylthiophene | 0.590 mol, 102.8 g | CC=1SC=CC1C1=CC=CC=C1 | C11H10S
reactant | 3-methylbutanoyl chloride | 0.600 mol, 72.3 g | CC(CC(=O)Cl)C | C5H9ClO
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
reactant | water | 500 mL | O | H2O
reactant | dichloromethane | 60 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 0.640 mol, 640 mL | ClCCl | CH2Cl2
product | 3-methyl-1-(5-methyl-4-phenyl-(2-thienyl))butan-1-one | CC(CC(=O)C=1SC=C(C1)C1=CC=CC(=C1)C)C | C16H18OS
